US09227963B2
1-(2-oxatricyclo[3.3.1.13,7]dec-1-ylmethyl)-4-chloro-1H-pyrazole
The title compound was prepared by substituting EXAMPLE 13A for 1-adamantanemethanol and 4-chloro-1H-pyrazole for 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole in EXAMPLE 2A.

reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 4-chloro-1H-pyrazole | ClC=1C=NNC1 | C3H3ClN2
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1=NNC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
product | 1-(2-oxatricyclo[3.3.1.13,7]dec-1-ylmethyl)-4-chloro-1H-pyrazole | C12(OC3CC(CC(C1)C3)C2)CN2N=CC(=C2)Cl | C13H17ClN2O
